US04668682
A solution of 3.0 g (10 mmol) of methyl ester of N-(2-methoxyphenyl-acetyl)-anthranilic acid and 5.1 g (50 mmol) of 2-diethylaminoethylamine in ethanol (20 ml) was heated at 180° C. for 7 hours in a seald tube. After cooling, the thus obtained reaction mixture was purified by silica gel column chromatography (eluent; chloroform : ethanol=98:2) to obtain 1.24 g (yield 34 %) of 2-(2-methoxyphenylmethyl)-3-(2-diethylaminoethyl)-4(3H)-quinazolinone as an oily substance. 1.2 g of the oily substance were dissolved in ethanol (5 ml) and a 7% HCl-ethanol solution (1.5 ml) were added thereto. The resulting solution was allowed to cool overnight. The resulting colorless precipitates were collected by filtration to obtain 1.0 g of the captioned hydrochloride which is the desired compound.

reactant | N-(2-methoxyphenyl-acetyl)-anthranilic acid | COC1=C(C=CC=C1)CC(=O)NC=1C(C(=O)O)=CC=CC1 | C16H15NO4
reactant | 2-diethylaminoethylamine | 50 mmol, 5.1 g | C(C)N(CCN)CC | C6H16N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(2-methoxyphenylmethyl)-3-(2-diethylaminoethyl)-4(3H)-quinazolinone | 1.24 g, yield 34 % | COC1=C(C=CC=C1)CC1=NC2=CC=CC=C2C(N1CCN(CC)CC)=O | C22H27N3O2
